US09302989B2
N-(4-(3-amino oxetan-3-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide
In a 20 mL vial was added N-(4-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide (253 mg, 0.610 mmol) and methanol (6.1 ml). 4N HCl in dioxane (229 μl, 0.916 mmol) was added and the reaction was stirred for 2 hours. The mixture was concentrated under vacuum to give the title compound which was used without further purification.

reactant | N-(4-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | 0.610 mmol, 253 mg | CC(C)(S(=O)NC1(COC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1)C | C21H26N4O3S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 0.916 mmol, 229 μl | O1CCOCC1 | C4H8O2
solvent | methanol | 6.1 ml | CO | CH4O
product | N-(4-(3-amino oxetan-3-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | NC1(COC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C17H18N4O2
